US06893650B1
a) 3-Methyl-4-nitrobenzamide Oxime
To a solution of 3-methyl-4-nitrobenzonitrile (5 g) in ethanol (100 ml) at room temperature was added hydroxylamine hydrochloride (2.25 g) followed by triethylamine (4.5 ml). The mixture was heated under reflux for 2.5 hours. On cooling the mixture was evaporated to a third of its original volume and poured on to water (200 ml). The mixture was filtered to give the title product as a solid, m.p. 127-9° C.

reactant | 3-methyl-4-nitrobenzonitrile | 5 g | CC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O2
reactant | hydroxylamine hydrochloride | 2.25 g | Cl.NO
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Methyl-4-nitrobenzamide Oxime | CC=1C=C(C(N)=NO)C=CC1[N+](=O)[O-] | C8H9N3O3
